US08431695B2
Preparation of 4-[4-amino-5-(3-amino-2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpiperidine-1-carboxamide
In a manner similar to the procedure described for Example 369 and using 5-(3-amino-2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting dimethylcarbamyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 40 mg (46%) of the desired product was isolated. 1H NMR (400 MHz, CD3OD) 8 ppm 7.82 (s, 1 H) 7.71 (d, 1 H) 7.23-7.37 (m, 6 H) 6.96 (d, 1 H) 6.57 (s, 1 H) 5.44 (s, 2 H) 3.79 (d, 2 H) 3.41 (dt, 1 H) 3.01 (d, 2 H) 2.86 (s, 6 H) 2.16 (d, 2 H) 1.77 (dt, 2 H). LC-MS [M+H]+=510.2, RT=2.21 min.

reactant | 5-(3-amino-2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | NC=1N(N=C2C=C(C=CC12)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2)CC2=CC=CC=C2 | C25H26N8
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 4-[4-amino-5-(3-amino-2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpiperidine-1-carboxamide | 40 mg, 46% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)N(C)C)C=2C=CC1=C(N(N=C1C2)CC2=CC=CC=C2)N | C28H31N9O
